US05308837
Step A: α-Phthalimido-α'-Chloroxylene
A mixture of α,α'-dichloroxylene (8.75 g, 50 mmol) and potassium phthalimide (5.6 g, 30 mmol) was heated to 50° C. for 24 h. Then the reaction mixture was concentrated in vacuo, dissolved in ethyl acetate and, after usual work-up, the desired compound was obtained by flash chromatography on silica gel (ethyl acetate:hexane; 15:85) (6 g, 65%).

reactant | α,α'-dichloroxylene | 50 mmol, 8.75 g | ClCC=1C(=CC=CC1)CCl | C8H8Cl2
reactant | potassium phthalimide | 30 mmol, 5.6 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
product | α-Phthalimido-α'-Chloroxylene | C1(C=2C(C(N1CC=1C(=CC=CC1)CCl)=O)=CC=CC2)=O | C16H12ClNO2
